### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites/MorphismProperty): add induced coverage

### PR DESCRIPTION
**Pull request by chrisflav**
We add the (pre)coverage induced by a morphism property and show the induced topology is the same as the one induced by `MorphismProperty.pretopology`.

This will be used in the upcoming refactor of `Scheme.Cover`, which will be built upon `Precoverage.ZeroHypercover`.

---

- [x] depends on: #29065 
- [x] depends on: #29085 

I claim the import increase is fine, because `Mathlib.CategoryTheory.Sites.MorphismProperty` is the only affected file for which the import makes sense.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/MorphismProperty.lean [hunk 1]
```diff
@@ -22,44 +23,106 @@ namespace CategoryTheory
...
+  mem_coverings_of_isPullback {ι} S X f hf T g W p₁ p₂ h Z g hg := by
+    obtain ⟨i⟩ := hg
+    exact P.of_isPullback (h i).flip (hf ⟨i⟩)
+
+instance [P.IsStableUnderComposition] : P.precoverage.IsStableUnderComposition where
+  comp_mem_coverings {ι} S X f hf σ Y g hg Z p := by
+    intro ⟨i⟩
+    exact P.comp_mem _ _ (hg _ ⟨i.2⟩) (hf ⟨i.1⟩)
+
+lemma precoverage_le_precoverage (hPQ : P ≤ Q) : precoverage P ≤ precoverage Q :=
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/MorphismProperty.lean]:
```suggestion
lemma precoverage_monotone (hPQ : P ≤ Q) : precoverage P ≤ precoverage Q :=
```

File: Mathlib/CategoryTheory/Sites/MorphismProperty.lean [hunk 2]
```diff
@@ -22,44 +23,106 @@ namespace CategoryTheory
...
+variable {C : Type*} [Category C]
 
 namespace MorphismProperty
 
+variable {P Q : MorphismProperty C}
+
+/-- This is the precoverage on `C` where covering presieves are those where every
+morphism satisfies `P`. -/
+def precoverage (P : MorphismProperty C) : Precoverage C where
+  coverings X S := ∀ {Y : C} {f : Y ⟶ X}, S f → P f
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/MorphismProperty.lean]: I may find using `precoverage` more convenient by doing the following:?
```suggestion
  coverings X S := ∀ ⦃Y : C⦄ ⦃f : Y ⟶ X⦄, S f → P f
```

**Comment by joelriou** [comment]
Apart from the few suggestions above, this looks good to me!

File: Mathlib/CategoryTheory/Sites/MorphismProperty.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Sites/MorphismProperty.lean]: I still don't have a good intuition for when `⦃` is more convenient than `{`, but I am happy to trust your estimate here.

**Comment by joelriou** [comment]
Thanks!

bors merge
